US04497817
In 100 ml of methylene chloride was dissolved 2 g of 2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole and after adding thereto 20 ml of an aqueous 10% potassium hydrogencarbonate solution and 1.8 g of iodine, the mixture was stirred overnight vigorously at room temperature. The crystals which formed were recovered by filtration and recrystallized from a mixture of methylcellosolve and water to provide 2.4 g of 2-(p-chlorophenyl)-3-iodoimidazo[2,1-b]benzothiazole.

reactant | 2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole | 2 g | ClC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC=C3 | C15H9ClN2S
reactant | potassium hydrogencarbonate | C(O)([O-])=O.[K+]
reactant | iodine | 1.8 g | II | I2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(p-chlorophenyl)-3-iodoimidazo[2,1-b]benzothiazole | 2.4 g | ClC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1I)C=CC=C3 | C15H8ClIN2S
